### PR TITLE
Split Surjectivity

### PR DESCRIPTION
**Pull request by TOTBWF**
# Description

Pulling some of my changes out of #375 in hopes of getting back to it at some point. This PR defines split surjectivity, and also proves some misc. lemmas about surjective maps. I've done some minor cleanup in some of the base modules, and added some (hopefully useful!) equivalences.

## Checklist

Before submitting a merge request, please check the items below:

- [x] I've read [the contributing guidelines](https://github.com/plt-amy/1lab/blob/main/CONTRIBUTING.md).
- [x] The imports of new modules have been sorted with `support/sort-imports.hs` (or `nix run --experimental-features nix-command -f . sort-imports`).
- [x] All new code blocks have "agda" as their language.

If your change affects many files without adding substantial content, and
you don't want your name to appear on those pages (for example, treewide
refactorings or reformattings), start the commit message and PR title with `chore:`.

### CODE REVIEW

File: src/1Lab/Function/Surjection.lagda.md [hunk 1]
```diff
@@ -144,3 +161,263 @@ injective-surjective→is-equiv! =
...
+
+```agda
+surjective-iff-image-equiv {f = f} = prop-ext! to from where
+
+  to : is-surjective f → is-equiv fst
+  to f-surj =
+    is-iso→is-equiv $
+      iso (λ b → b , f-surj b)
+        (λ _ → refl)
+        (λ _ → Σ-prop-path! refl)
```
Comment (plt-amy) [inline src/1Lab/Function/Surjection.lagda.md:191]: prefer:
```suggestion
  to : is-surjective f → is-equiv fst
  to f-surj = is-iso→is-equiv $ iso 
    (λ b → b , f-surj b)
    (λ _ → refl)
    (λ _ → Σ-prop-path! refl)
```

File: src/1Lab/Function/Surjection.lagda.md [hunk 2]
```diff
@@ -144,3 +161,263 @@ injective-surjective→is-equiv! =
...
+surjective-splitting f = ∀ b → fibre f b
+```
+
+Note that unlike "being surjective", a surjective splitting of $f$ is a *structure*
+on $f$, not a property. This difference becomes particularly striking when we
+look at functions into [[contractible]] types: if $B$ is contractible,
+then the type of surjective splittings of a function $f : A \to B$ is equivalent to $A$.
+
+```agda
+cod-contr→surjective-splitting≃dom
```
Comment (plt-amy) [inline src/1Lab/Function/Surjection.lagda.md:215]: this name is a nightmare (i don't have anything better to offer at the moment).

File: src/1Lab/HIT/Truncation.lagda.md [hunk 3]
```diff
@@ -207,6 +216,24 @@ is-prop≃equiv∥-∥ {P = P} =
...
 ```
 
+This is closely related to the principle of **unique choice**, which
+states that if $A$ is [[contractible]], then the type of functions
+`A → ∥ B x ∥` is equivalent to `∥ A → B x ∥`[^1].
+
+[^1]: In other words, unique choice states that contractible types are [[projective|set-projective]].
+
+```agda
+unique-choice≃
```
Comment (plt-amy) [inline src/1Lab/HIT/Truncation.lagda.md:226]: does this need the `≃`?

File: src/1Lab/Type/Sigma.lagda.md [hunk 4]
```diff
@@ -25,9 +26,29 @@ private variable
...
+  → (p : fst ∘ h ≡ f)
+  → PathP (λ i → (x : A) → C x (p i x)) (snd ∘ h) g
+  → h ≡ ⟨ f , g ⟩
+⟨⟩-unique h p q i x = p i x , q i x
+```
+
 ## Groupoid structure
 
-The first thing we prove is that _paths in sigmas are sigmas of paths_.
+The first thing we prove is that _paths in sigmas are sigmas of paths_
```
Comment (plt-amy) [inline src/1Lab/Type/Sigma.lagda.md:51]: weh?

File: src/1Lab/HIT/Truncation.lagda.md (hunk 3 above)
Comment (TOTBWF) [reply src/1Lab/HIT/Truncation.lagda.md:226]: I waffled a bit when I was defining this: wasn't sure if we wanted to reserve the identifier `unique-choice` for the non-equivalence version of this lemma. Suppose that we could bind it to a module and just use `unique-choice.to`.

File: src/1Lab/Function/Surjection.lagda.md (hunk 2 above)
Comment (TOTBWF) [reply src/1Lab/Function/Surjection.lagda.md:217]: Every day I stray closer to the light of `Lemma 1.2.4.12`

File: src/1Lab/Equiv.lagda.md [hunk 5]
```diff
@@ -1086,7 +1087,37 @@ infix  3 _≃∎
 infix 21 _≃_
 
 syntax ≃⟨⟩-syntax x q p = x ≃⟨ p ⟩ q
+```
+-->
+
+## Some useful equivalences
 
+We can extend `subst`{.Agda} to an equivalence between `Σ[ y ∈ A ] (y ≡ x × P y)`
+and `P x` for every `x : A` and `P : A → Type`.
```
Comment (ncfavier) [inline src/1Lab/Equiv.lagda.md:1096]: Maybe add something to the effect of

```md
In informal mathematical practice, applying this equivalence is sometimes called
"contracting `y` away", alluding to the [[contractibility of singletons]].
```

File: src/1Lab/Function/Surjection.lagda.md [hunk 6]
```diff
@@ -99,6 +103,19 @@ is-equiv→is-surjective : {f : A → B} → is-equiv f → is-surjective f
 is-equiv→is-surjective eqv x = inc (eqv .is-eqv x .centre)
 ```
 
+Surjections also are closed under a weaker form of [[two-out-of-three]]:
+if $f circ g$ is surjective, then $f$ must also be surjective.
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:107]:
```suggestion
if $f \circ g$ is surjective, then $f$ must also be surjective.
```

File: src/1Lab/Function/Surjection.lagda.md [hunk 7]
```diff
@@ -144,3 +161,265 @@ injective-surjective→is-equiv! =
   injective-surjective→is-equiv (hlevel 2)
 ```
 -->
+
+## Surjectivity and images
+
+A map $f : A \to B$ if and only if the inclusion of the image of $f$ into $B$
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:167]:
```suggestion
A map $f : A \to B$ is surjective if and only if the inclusion of the image of $f$ into $B$
```

File: src/1Lab/Function/Surjection.lagda.md [hunk 8]
```diff
@@ -144,3 +161,265 @@ injective-surjective→is-equiv! =
...
+is an [[equivalence]].
+
+```agda
+surjective-iff-image-equiv
+  : ∀ {f : A → B}
+  → is-surjective f ≃ is-equiv {A = image f} fst
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:173]: I think it would be more illuminating to prove this by a chain of equivalences: `fst` being an equivalence is the same as its fibres being contractible; the fibres of `fst` are of the form `∥ fibre f x ∥` (by `Fibre-equiv`), and `∥ A ∥` is contractible iff inhabited.

EDIT: just saw your [comment](https://github.com/the1lab/1lab/blob/6989eca0b8ef81fb0127fe8b97782ea14b0b159d/src/Data/Set/Projective.lagda.md#L48-L51) but I'm not sure why it's there instead of here 😅

File: src/1Lab/HIT/Truncation.lagda.md [hunk 9]
```diff
@@ -154,13 +155,21 @@ truncation extends to a functor:
 ∥-∥-map f (squash x y i) = squash (∥-∥-map f x) (∥-∥-map f y) i
 ```
 
+This means that propositional trunctation preserves equivalences.
```
Comment (ncfavier) [inline src/1Lab/HIT/Truncation.lagda.md:158]:
```suggestion
This means that propositional truncation preserves equivalences.
```

File: src/1Lab/Function/Surjection.lagda.md [hunk 10]
```diff
@@ -144,3 +161,265 @@ injective-surjective→is-equiv! =
...
+    subst (λ b → ∥ fibre f b ∥)
+      (equiv→counit im-eqv b)
+      (equiv→inverse im-eqv b .snd)
+```
+
+# Split surjective functions
+
+:::{.definition #surjective-splitting}
+A **surjective splitting** of a function $f : A \to B$ consists of a designated
+element of the fibre $f^*b$ for each $b : B$.
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:203]:
```suggestion
element of the fibre $f^{-1}(b)$ for each $b : B$.
```

for consistency

File: src/1Lab/Function/Surjection.lagda.md [hunk 11]
```diff
@@ -144,3 +161,265 @@ injective-surjective→is-equiv! =
...
+```
+
+Note that we do not have a converse to this constructively: the statement that
+every surjective function between [[sets]] splits is [[equivalent to the axiom of choice|axiom-of-choice]]!
+
+
+## Split surjective functions and sections
+
+The type of surjective splittings of a function $f : A \to B$ is equivalent
+to the type of sections of $f$, EG: functions $s : B \to A$ with $f \circ s = \id$.
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:277]:
```suggestion
to the type of sections of $f$, i.e. functions $s : B \to A$ with $f \circ s = \id$.
```

or viz.

File: src/1Lab/Function/Surjection.lagda.md [hunk 12]
```diff
@@ -144,3 +161,265 @@ injective-surjective→is-equiv! =
...
+<summary> The proof is essentially identical to the non-split case.
+</summary>
+```agda
+∘-surjective-splitting {f = f} f-split g-split c =
+  let (f*c , p) = f-split c
+      (g*f*c , q) = g-split f*c
+  in g*f*c , ap f q ∙ p
+
+∘-is-split-surjective fs gs = ⦇ ∘-surjective-splitting fs gs ⦈
+
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:332]:
```suggestion
```

File: src/1Lab/Function/Surjection.lagda.md [hunk 13]
```diff
@@ -144,3 +161,265 @@ injective-surjective→is-equiv! =
...
+```agda
+contr-dom-surjective-iff-connected-cod
+  : ∀ {f : A → B}
+  → (A-contr : is-contr A)
+  → is-surjective f ≃ ((x : B) → ∥ x ≡ f (A-contr .centre) ∥)
+```
+
+To see this, note that the type of fibres of $f$ over $x$ is equivalent
+to the type of paths $x = f(a_{bullet})$, where $a_{\bullet}$ is the centre
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:416]:
```suggestion
to the type of paths $x = f(a_{\bullet})$, where $a_{\bullet}$ is the centre
```

File: src/1Lab/Function/Surjection.lagda.md [hunk 14]
```diff
@@ -144,3 +161,265 @@ injective-surjective→is-equiv! =
...
+of contraction of $A$.
+
+```agda
+contr-dom-surjective-iff-connected-cod {A = A} {B = B} {f = f} A-contr =
+  Π-cod≃ (λ b → ∥-∥-ap (Σ-contr-eqv A-contr ∙e sym-equiv))
+```
+
+This correspondence is not a coincidence: surjective maps are a special case
+of a more general family of maps called [[connected maps]].
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:425]: Wait, what's the maths here? Being a connected map is about the *fibres* being connected, and you recover connected spaces by taking maps A → 1, but here we're looking at maps 1 → B.

File: src/1Lab/HIT/Truncation.lagda.md [hunk 15]
```diff
@@ -154,13 +155,21 @@ truncation extends to a functor:
...
+```
+
 <!--
 ```agda
 ∥-∥-map₂ : ∀ {ℓ ℓ' ℓ''} {A : Type ℓ} {B : Type ℓ'} {C : Type ℓ''}
          → (A → B → C) → ∥ A ∥ → ∥ B ∥ → ∥ C ∥
 ∥-∥-map₂ f (inc x) (inc y)  = inc (f x y)
 ∥-∥-map₂ f (squash x y i) z = squash (∥-∥-map₂ f x z) (∥-∥-map₂ f y z) i
 ∥-∥-map₂ f x (squash y z i) = squash (∥-∥-map₂ f x y) (∥-∥-map₂ f x z) i
+
```
Comment (ncfavier) [inline src/1Lab/HIT/Truncation.lagda.md:172]:
```suggestion
```

File: src/1Lab/HIT/Truncation.lagda.md [hunk 16]
```diff
@@ -207,6 +216,31 @@ is-prop≃equiv∥-∥ {P = P} =
                           (is-equiv-is-prop _ _ _)
 ```
 
+This is closely related to the principle of **unique choice**, which
+states that if $A$ is [[contractible]], then the type of functions
+`A → ∥ B x ∥` is equivalent to `∥ A → B x ∥`[^1].
```
Comment (ncfavier) [inline src/1Lab/HIT/Truncation.lagda.md:221]:
```suggestion
`(x : A) → ∥ B x ∥` is equivalent to `∥ (x : A) → B x ∥`[^1].
```

File: src/1Lab/HIT/Truncation.lagda.md [hunk 17]
```diff
@@ -207,6 +216,31 @@ is-prop≃equiv∥-∥ {P = P} =
...
+
+[^1]: In other words, unique choice states that contractible types are [[projective|set-projective]].
+
+```agda
+unique-choice
+  : ∀ {ℓ ℓ'} {A : Type ℓ} {B : A → Type ℓ'}
+  → is-contr A
+  → (∀ (x : A) → ∥ B x ∥) ≃ ∥ (∀ (x : A) → B x) ∥
```
Comment (ncfavier) [inline src/1Lab/HIT/Truncation.lagda.md:229]:
```suggestion
  → ((x : A) → ∥ B x ∥) ≃ ∥ ((x : A) → B x) ∥
```

File: src/1Lab/Function/Surjection.lagda.md (hunk 10 above)
Comment (plt-amy) [reply src/1Lab/Function/Surjection.lagda.md:203]: I think we use `^*` in more places? So I'd change the `f\inv` personally

File: src/1Lab/Function/Surjection.lagda.md (hunk 14 above)
Comment (ncfavier) [reply src/1Lab/Function/Surjection.lagda.md:425]: OK, there are two facts here that we may be mixing up:

- surjective maps are precisely (-1)-connected maps, i.e. maps whose fibres are (-1)-connected (i.e. merely inhabited)
- maps 1 → A are surjective precisely when A is 0-connected

I think I'd remove the paragraph altogether to avoid confusion.

File: src/1Lab/Function/Surjection.lagda.md (hunk 8 above)
Comment (TOTBWF) [reply src/1Lab/Function/Surjection.lagda.md:173]: Yeah, this is much nicer.

File: src/1Lab/Function/Surjection.lagda.md (hunk 10 above)
Comment (TOTBWF) [reply src/1Lab/Function/Surjection.lagda.md:203]: Yeah, I've always been iffy on `f^{-1}(x)` for the type of fibres. Looks like we use both in this file though.

File: src/1Lab/Function/Surjection.lagda.md (hunk 14 above)
Comment (TOTBWF) [reply src/1Lab/Function/Surjection.lagda.md:425]: Surjective maps are (-1)-connected maps, so this is a special case of `is-n-connected-point`. I'll add a link to clarify.

File: src/1Lab/Function/Surjection.lagda.md (hunk 10 above)
Comment (ncfavier) [reply src/1Lab/Function/Surjection.lagda.md:197]: Either way is fine

File: src/1Lab/Function/Surjection.lagda.md [hunk 18]
```diff
@@ -144,3 +162,259 @@ injective-surjective→is-equiv! =
...
+  → is-surjective f ≃ is-equiv {A = image f} fst
+```
+
+First, note that asking for the [[mere]] existence of a fibre of $f$
+is equivalent to asking that the the type of mere fibres be [[contractible]],
+as the type of mere fibres is a [[proposition]]. Moreover, the type
+of mere fibres of $f$ is equivalent to the fibres of the inclusion of
+the image of $f$. This means that we have a choice of mere fibres
+of $f^*(b)$ for every $b$ exactly when the fibres of the image inclusion
+are contractible, i.e. the image inclusion is an equivalence.
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:183]: Sorry I rewrote the whole thing. I think it reads better backwards, and I don't like using "fibre" to refer to the *elements* of the fibres.

```suggestion
First, note that the fibre of the inclusion of the image of $f$ at $b$
is the [[propositional truncation]] of the fibre of $f$ at $b$, by
construction. Asking for this inclusion to be an equivalence is the same as
asking for those fibres to be [[contractible]], which thus amounts to
asking for the fibres of $f$ to be [[merely]] inhabited, which is the
definition of $f$ being surjective.
```

File: src/1Lab/Function/Surjection.lagda.md [hunk 19]
```diff
@@ -144,3 +162,259 @@ injective-surjective→is-equiv! =
...
+then the type of surjective splittings of a function $f : A \to B$ is equivalent to $A$.
+
+```agda
+cod-contr→surjective-splitting≃dom
+  : (f : A → B)
+  → is-contr B
+  → surjective-splitting f ≃ A
+```
+
+First, recall that functions out of contractible types are equivalences, so
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:217]: That doesn't sound true.

File: src/1Lab/Function/Surjection.lagda.md [hunk 20]
```diff
@@ -144,3 +162,259 @@ injective-surjective→is-equiv! =
...
+a choice of fibres $(b : B) \to f^*(b)$ is equivalent to a single fibre
+at the centre of contraction of $B$. Moreover, the type of paths in $B$ is
+also contractible, so the type of fibres of $f : A \to B$ is equivalent to $A$.
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:220]:
```suggestion
a dependent function $(b : B) \to f^*(b)$ is equivalent to an element of the fibre of $f$
at the centre of contraction of $B$. Moreover, the type of paths in $B$ is
also contractible, so that fibre is equivalent to $A$.
```

File: src/1Lab/Function/Surjection.lagda.md [hunk 21]
```diff
@@ -144,3 +162,259 @@ injective-surjective→is-equiv! =
...
+  : is-equiv f
+  → surjective-splitting f
+
+is-equiv→is-split-surjective
+  : is-equiv f
+  → is-split-surjective f
+```
+
+This follows immediately from the definition of equivalences: if the
+type of fibres is contractible, then we can pluck the fibre we need
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:343]:
```suggestion
fibre is contractible, then we can pluck the element we need
```

File: src/1Lab/Function/Surjection.lagda.md [hunk 22]
```diff
@@ -144,3 +162,259 @@ injective-surjective→is-equiv! =
...
+the basepoint of $B$ is given by $f$ applied to the centre of contraction of $A$.
+
+```agda
+contr-dom-surjective-iff-connected-cod
+  : ∀ {f : A → B}
+  → (A-contr : is-contr A)
+  → is-surjective f ≃ ((x : B) → ∥ x ≡ f (A-contr .centre) ∥)
+```
+
+To see this, note that the type of fibres of $f$ over $x$ is equivalent
```
Comment (ncfavier) [inline src/1Lab/Function/Surjection.lagda.md:408]:
```suggestion
To see this, note that the fibre of $f$ over $x$ is equivalent
```

File: src/1Lab/Function/Surjection.lagda.md (hunk 18 above)
Comment (TOTBWF) [reply src/1Lab/Function/Surjection.lagda.md:183]: The code seems to agree: all of those equivalences are flipped :P

File: src/1Lab/Function/Surjection.lagda.md (hunk 19 above)
Comment (TOTBWF) [reply src/1Lab/Function/Surjection.lagda.md:217]: Bluh, meant to write "are equivalent to elements" but this got mangled in an edit

**Review by ncfavier — DISMISSED** [review]

**Review by plt-amy — CHANGES_REQUESTED** [review]
sorry for not batching those

File: src/1Lab/Function/Surjection.lagda.md (hunk 2 above)
Comment (TOTBWF) [reply src/1Lab/Function/Surjection.lagda.md:212]: This is intended as an illustration of why split subjectivity is structure, so we could make it anonymous.

File: src/1Lab/HIT/Truncation.lagda.md [hunk 23]
```diff
@@ -207,6 +215,31 @@ is-prop≃equiv∥-∥ {P = P} =
                           (is-equiv-is-prop _ _ _)
 ```
 
+This is closely related to the principle of **unique choice**, which
```
[the remark this answers is not in the document]
Comment (TOTBWF) [reply src/1Lab/HIT/Truncation.lagda.md:218]: We could call this something like `is-contr->is-projective` but I think it meshes well with projectivity of finite types being called "finite choice".

[the remark this answers is not in the document]
Comment (ncfavier) [reply src/1Lab/HIT/Truncation.lagda.md:218]: I agree that "unique choice" refers to the case where $B$ is a family of propositions, not where $A$ is contractible. Reusing the name would be confusing. See https://github.com/the1lab/1lab/blob/f53ddc71050cfc5b713156a60bc2d759bf389f80/src/HoTT.lagda.md#L352-L363

[the remark this answers is not in the document]
Comment (TOTBWF) [reply src/1Lab/HIT/Truncation.lagda.md:218]: I'll just remove this for now then: it's easy enough to reprove, and I've gotten rid of the example that needs it.

**Comment by TOTBWF** [comment]
Rebased onto master, just need a ✅ and we are good to go.

**Review by ncfavier — DISMISSED** [review]

**Review by plt-amy — CHANGES_REQUESTED** [review]

**Review by plt-amy — APPROVED** [review]
